data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2611,2893,[CH3:11][O:12][C:13](=[O:14])[C:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)=[N+:22]([CH3:23])[C-:24]([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1.[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:15]([C:13]([O:12][CH3:11])=[O:14])([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:22]([CH3:23])[C:24]2([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1,water,298.15,44.466981561965554,-12.262281411266232
902,975,[CH3:1]/[C:2]([Cl:3])=[C:4](\[CH3:5])[Cl:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12]#[N:13])=[N+:14]([CH3:15])[C-:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21]>>[CH3:1][C@@:2]1([Cl:3])[C@:4]([CH3:5])([Cl:6])[C:16]([C:17]#[N:18])([C:19]([CH3:20])=[O:21])[N:14]([CH3:15])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12]#[N:13],water,298.15,45.05511344630752,-5.871219292538378
909,983,[CH2-:13][N+:14]([CH3:15])=[CH:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH2:13][N:14]([CH3:15])[CH:16]2[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,9.537910856954028,-40.39172999265905
3354,3807,[CH2:1]=[CH2:2].[CH3:3][C:4](=[NH+:5][CH-:6][c:7]1[cH:8][cH:9][cH:10][cH:11][cH:12]1)[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1>>[CH2:1]1[CH2:2][CH:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[NH:5][C:4]1([CH3:3])[c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1,water,298.15,19.80748057953701,-35.30613733901064
3489,3973,[CH3:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[CH-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:16]([C:17]#[N:18])[N:14]([CH3:15])[CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,26.39521667531991,-16.723715047958432
4727,5397,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:19]([C:20]([CH3:21])=[O:22])([C:23]([CH3:24])=[O:25])[N:17]([CH3:18])[C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,31.04089874161345,-14.536907700993844
268,292,[CH3:11][CH-:12][N+:13]([CH3:14])=[C:15]([CH3:16])[C:17]#[N:18].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[CH:12]([CH3:11])[N:13]([CH3:14])[C:15]2([CH3:16])[C:17]#[N:18],water,298.15,10.863314094322703,-30.5625883069292
773,836,[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([Cl:7])[Cl:8].[CH3:9][C:10]([CH3:11])=[NH+:12][C-:13]([CH3:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([Cl:7])([Cl:8])[C:13]([CH3:14])([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[NH:12][C:10]1([CH3:9])[CH3:11],water,298.15,19.690991029185465,-28.07899294629528
898,971,[CH3:1][C:2]#[C:3][C:4](=[O:5])[NH:6][CH3:7].[CH3:8][C-:9]([CH3:10])[NH+:11]=[C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[NH:6][CH3:7])[C:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[NH:11][C:9]1([CH3:8])[CH3:10],water,298.15,16.910058876898145,-45.86906143273928
4632,5282,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[N+:16]([CH3:17])[C-:18]([C:19]([CH3:20])=[O:21])[C:22]([CH3:23])=[O:24]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:18]([C:19]([CH3:20])=[O:21])([C:22]([CH3:23])=[O:24])[N:16]([CH3:17])[C:14]2([C:12]([CH3:11])=[O:13])[CH3:15],water,298.15,29.49899820417476,-7.7158623661048304
3384,3844,[CH3:10][O:11][C:12](=[O:13])[N:14]=[N+:15]([CH3:16])[NH-:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:14]([C:12]([O:11][CH3:10])=[O:13])[N:15]([CH3:16])[NH:17]1,water,298.15,38.39895238307626,-1.992782467307972
1519,1675,[CH3:13][C-:14]([N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)=[N:15][C:14]3([CH3:13])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,9.121242051652272,-59.74152577155864
